US04044141
Analogously to Example 1 heating a solution of 75 mmols of 3'-nitrobenzylideneacetoacetic acid methyl ester and 75 mmols of β-aminocrotonic acid 2-phenylethyl ester in 120 ml of ethanol gave 2,6-dimethyl-3-methoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 2-phenylethyl ester of melting point 122° C (from ethanol).

reactant | 2,6-dimethyl-3-methoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 2-phenylethyl ester | C1(=CC=CC=C1)CCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C24H24N2O6
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | β-aminocrotonic acid 2-phenylethyl ester | 75 mmols, Yield: 74% | C1(=CC=CC=C1)CCOC(\C=C(\C)/N)=O | C12H15NO2
